US07589232B2
Step c) Formation of 8-[{4-[(4-butylphenyl)ethynyl]benzyl}(3-cyclopentylpropanoyl)amino]-5,6,7,8-tetrahydronaphthalene-2-carboxylic acid
The titled compound was prepared following the procedure F using methyl 8-[{4-[(4-butylphenyl)ethynyl]benzyl}(3-cyclopentylpropanoyl)amino]-5,6,7,8-tetrahydro-2-naphthalenecarboxylate and LiOH.H2O, as a white solid (94%). 1H NMR (MeOD, 300 MHz) δ 7.80 (m, 1H), 7.71 (d, J=5.5 Hz. 1H), 7.47 (d, J=7.5 Hz, 1H), 7.38 (m, 3H), 7.18 (m, 5H), 5.94 (m, 0.5H), 5.30 (m, 0.5H), 4.80 (m, 1H), 4.63 (d, J=18.3 Hz, 0.5H), 4.21 (d, J=18.3 Hz, 0.5H), 2.81 (m, 2H), 2.62 (m, 2H), 2.45 (m, 1H), 2.27 (m, 1H), 2.10-1.06 (m, 19H), 0.93 (t, J=7.2 Hz, 3H). M− (ESI): 560.3; M+ (ESI): 562.2. HPLC, Rt: 5.97 min (Purity: 99.2%).

reactant | methyl 8-[{4-[(4-butylphenyl)ethynyl]benzyl}(3-cyclopentylpropanoyl)amino]-5,6,7,8-tetrahydro-2-naphthalenecarboxylate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C2CCCC=3C=CC(=CC23)C(=O)OC)C(CCC2CCCC2)=O)C=C1 | C39H45NO3
reactant | LiOH.H2O | O[Li].O
product | 8-[{4-[(4-butylphenyl)ethynyl]benzyl}(3-cyclopentylpropanoyl)amino]-5,6,7,8-tetrahydronaphthalene-2-carboxylic acid | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C2CCCC=3C=CC(=CC23)C(=O)O)C(CCC2CCCC2)=O)C=C1 | C38H43NO3
